US08455477B2
To quinoline (500 ml) was added 5-hydroxy-1,8-naphthyridine-2,6-dicarboxylic acid (50 g, 340 mmol). The reaction mixture was heated to reflux. After 8 hours, the reaction mixture was cooled and concentrated in vacuo to afford 1,8-naphthyridin-4-ol.

reactant | 5-hydroxy-1,8-naphthyridine-2,6-dicarboxylic acid | 340 mmol, 50 g | OC1=C2C=CC(=NC2=NC=C1C(=O)O)C(=O)O | C10H6N2O5
solvent | quinoline | 500 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 1,8-naphthyridin-4-ol | N1=CC=C(C2=CC=CN=C12)O | C8H6N2O
